### PR TITLE
feat: verifiable `repeat`/`while` loops

### PR DESCRIPTION
**Pull request by sgraf812**
This PR adds `whileM`, a counterpart to `Lean.Loop.forIn` that admits a one-step unfolding lemma `whileM_eq` (impossible to prove for the original `partial def`). `Lean.Loop.forIn` now expands to `whileM`, so `repeat`/`while` keep working without source changes, and the `Spec.whileM`/`Spec.forIn_loop` `@[spec]` theorems let `mvcgen` discharge their bodies given a Nat variant and an `α ⊕ β` invariant.

`whileM.impl` is still a `partial def`, but returns a `Subtype (whileM.Pred f a)` whose property pins the value to an `Acc.recOn` term whenever an `Acc` and a `MonadAttach` witness exist; `whileM_eq` extracts that property. A `@[implemented_by]` `whileM.erased` keeps the runtime a tail call after specialization and would be unnecessary if the compiler were able eta-expand through the trivial `Subtype` structure. Supporting infrastructure: `Internal.Ensures`/`MayReturn`/`ErasesTo`/`IsAttach` and `WPAdequate` for `Id`/`ReaderT`/`StateT`/`ExceptT`/`OptionT`.

The resulting `while` loops take more work to optimize, hence a modest increase in build time instructions.

### CODE REVIEW

**Comment by Rob23oba** [comment]
Some food for thought; There are some variants of `repeat` verification that we might want to see:
```lean-4
-- 1. loop only terminates when the initial value satisfies some invariant (here `i ≤ x`)
-- We basically get this one for free by swapping out `extrinsicFix` for `partialExtrinsicFix`
def loopWithTerminationPrecond (x : Nat) : Id Nat := do
  let mut i := 0
  while i ≠ x do
    i := i + 1
  return i

example : (loopWithTerminationPrecond x).run = x := by sorry

-- 2. loop only terminates when the initial *state* satisfies some invariant (here `(← get) ≤ x`)
-- I'm not quite sure how to tackle this one...
def loopWithStatefulTerminationPrecond (x : Nat) : StateM Nat Nat := do
  set 0
  while (← get) ≠ x do
    modify fun i => i + 1
  get

example : (loopWithStatefulTerminationPrecond x).run' state = x := by sorry

-- 3. loop may not terminate; but we are in `Option`
-- similar to 1. but this time we want non-termination to provide meaningful output (i.e. `none`)
-- in this case it's enough to take the unique fixpoint of `fun cont : Nat → Option Nat => if x ≠ 20 then cont (x + 1) else pure x`
def possiblyDivergentLoop (x : Nat) : Option Nat := do
  let mut x := x
  while x ≠ 20 do
    x := x + 1
  return x

example : possiblyDivergentLoop x = some n → n = 20 ∧ x ≤ n := by sorry

inductive SpecialM (α : Type) where
  | ok (val : α)
  | error (err : String)
  | diverge

instance : Monad SpecialM where
  pure := .ok
  bind
    | .ok val, f => f val
    | .error err, _ => .error err
    | .diverge, _ => .diverge

-- ... setting up more instances for `SpecialM`

-- 4. loop may not terminate; but we have a special monad
-- similar to 3. but just requiring a fixpoint is not enough
-- since `error` and `diverge` are not distinguishable just from the `Monad` instance
def specialDivergence (x : Nat) : SpecialM Nat := do
  let mut x := x
  while x ≠ 20 do
    x := x + 1
  return x

example : specialDivergence 21 = .diverge := by sorry
```
Possibly an idea would be a special `MonadRepeat` class (mostly interesting for case 4.) or a stronger form of `MonadAttach` (mostly interesting for case 2.).

**Comment by sgraf812** [comment]
@Rob23oba although the PR body doesn't reflect it yet, I followed through on an idea by @datokrat and rebased the entire approach on `partial_fixpoint`. The upside is that this approach is less restrictive to monads (more monads possible, fewer hardcoded assumptions about what are postconditions) and allows for the more expressive stateful measures you requested, see the test case :tada: The downside is that `partial_fixpoint` is a bit magical to me and certainly a bit remote from the actual runtime semantics. Still, I think a reasonable definition of Totality for deterministic monads is possible as

```lean
def Total {β : Type u} {m : Type u → Type v} {ps} [Nonempty β] [Monad m] [WP m ps] (body : Unit → β → m (ForInStep β)) :=
  ∃ (f : β → β), ∀ [MonoBindRight m] b,
  ⦃⌜True⌝⦄ Repeat.forIn b body ⦃⇓ r => ⌜f b = r⌝⦄
```

File: src/Init/Internal/Order/MonoBindRight.lean [hunk 1]
```diff
@@ -0,0 +1,143 @@
...
+
+This is intended to be used in the construction of `partial_fixpoint`, and not meant to be used
+otherwise.
+-/
+class MonoBindRight (m : Type u → Type v) [Bind m] where
+  /-- Every `m β` with `Nonempty β` has a chain-complete partial order. -/
+  instCCPO β [Nonempty β] : CCPO (m β)
+  /-- Bind is monotone in the second (continuation) argument. -/
+  bind_mono_right {a : m α} {f₁ f₂ : α → m β} [Nonempty β] (h : ∀ x, f₁ x ⊑ f₂ x) :
+    a >>= f₁ ⊑ a >>= f₂
```
Comment (datokrat) [inline src/Init/Internal/Order/MonoBindRight.lean]: Very optional suggestion: We could call it `MonadTail` or something, emphasizing that the continuation is a tail call and making it sound less similar to the propositional `MonoBind`?

Comment (sgraf812) [reply src/Init/Internal/Order/MonoBindRight.lean]: Yes, I thought about that a bit as well. Maybe we can even generalize the theorem a bit because I don't think the property is much related to PartialOrder at all... Very roughly, something like

```
  preserves {a : m α} {f₁ f₂ : α → m β} {R : m β → m β → Prop} (h : ∀ x, R (f₁ x) (f₂ x)) : R (a >>= f₁) (a >>= f₂)
```

should hold (for certain `R`); it reeks of parametricity/logical relations. But perhaps the exact details are too complicated to work out and the ad-hoc thing is OK for now.

Anyway, all on board with `MonadTail`. Waiting for Claude quota...

**Comment by Rob23oba** [comment]
Hmm what about extrinsic `partial_fixpoint`?
```lean-4
@[specialize]
partial def Lean.Order.opaqueFix {α : Sort u} [Lean.Order.CCPO α] (f : α → α) : α :=
  f (opaqueFix f)

open scoped Classical in
@[implemented_by opaqueFix]
def Lean.Order.extrinsicFix {α : Sort u} [Lean.Order.CCPO α] (f : α → α) : α :=
  if h : monotone f then
    fix f h
  else
    opaqueFix f

@[inline, always_inline]
def Repeat.forIn {β : Type u} {m : Type u → Type v}
    [Monad m] [Lean.Order.CCPO (m β)] (b : β) (f : Unit → β → m (ForInStep β)) : m β :=
  Lean.Order.extrinsicFix (α := (b : β) → m β) (b := b) fun cont b => do
    match ← f () b with
    | .done val => pure val
    | .yield val => cont val
```
One advantage of that is that we can also apply it where we don't have a proof of monotonicity (i.e. `bind_mono_right`). Also, we can trivially expand it to the new forIn:
```lean-4
@[inline, always_inline]
def repeatNew {m : Type u → Type v} [Lean.Order.CCPO (m α)] (f : (cont : σ → m α) → σ → m α)
    (init : σ) : m α :=
  Lean.Order.extrinsicFix f init
```
Edit: Also, just to mention, I think `partial_fixpoint` alone addresses all four examples I've provided; with this extrinsic variant we should also be able to fix the problem with `BaseAsync` and others. Maybe a raw `Lean.Order.CCPO` is not the best idea though; what about splitting into `MonadTail` (which just supplies the `CCPO`) and `LawfulMonadTail` (which supplies the monotonicity proof)?

**Comment by Rob23oba** [comment]
Just as an experiment, I've made a prototype of using `extrinsicFix` for looping with a continuation-based approach at #13278. By nature of being a prototype, I haven't really put much thought into bootstrapping with `do.legacy false` or verification; but I think it has some good ideas; for example marking code after a `repeat` loop that doesn't break as dead code (and allowing for `repeat` loops to have a type of e.g. `IO Empty`).

**Comment by sgraf812** [comment]
Thanks for the `extrinsicFix` idea! I adopted and slightly modified to

```
@[cbv_opaque, implemented_by opaqueFix]
def extrinsicFix {α : Sort u} [Nonempty α] (f : α → α) : α :=
  if h : ∃ (inst : CCPO α), (letI := inst; monotone f) then
    @fix α h.choose f h.choose_spec
  else
    -- Return `opaqueFix f` so that `implemented_by opaqueFix` is sound.
    -- In effect, `extrinsicFix` is opaque if no CCPO makes `f` monotone.
    opaqueFix f
```

Now `Loop.forIn` can be implemented in terms of this function without needing to change any of the involved types.

#13278 goes a bit further and implements a separate `do` elaborator for `repeat` loops. I'm not quite convinced yet that the maintenance of a `for` variant is worth the small gain (dead code warnings) and it's orthogonal anyway.

I'm currently investigating whether we can define `MonadTail` without referencing particular CCPOs. It should work for any logical relation, and I hope I can find a suitable definition for the latter.

**Comment by Rob23oba** [comment]
Hmm I'm not sure if this `extrinsicFix` is really enough for all purposes. For example, as I mentioned, we might want `repeat` on `Option` to return `none` on non-termination but the variant you present is equivalent to just using `h : ∃ x, f x = x` and `h.choose` as shown by the following proof:
<details><summary>Proof of equivalence</summary>
<p>

```lean-4
theorem Lean.Order.exists_eq_fix (f : α → α) :
    ∀ x, f x = x → ∃ _ : CCPO α, ∃ hf : monotone f, x = fix f hf := by
  intro x hx
  exists (inferInstance : CCPO (FlatOrder x))
  refine ⟨?_, ?_⟩
  · intro y₁ y₂ h
    cases h
    · rw [hx]
      exact .bot
    · exact .refl
  · refine @fix_induct _ (_) _ _ (x = ·) ?_ ?_
    · apply admissible_flatOrder
      rfl
    · simp [hx]

theorem Lean.Order.exists_ccpo_monotone_iff (f : α → α) :
    (∃ _ : CCPO α, monotone f) ↔ ∃ x, f x = x := by
  constructor
  · rintro ⟨h, hf⟩
    exists fix f hf
    rw [← fix_eq hf]
  · rintro ⟨x, hx⟩
    obtain ⟨h, h', _⟩ := exists_eq_fix f x hx
    exact ⟨h, h'⟩
```

</p>
</details>

So if all we wanted is some *arbitrary* fixpoint, then just state it like that directly. For us to actually get something more meaningful, we need more information (e.g. a user-specifiable CCPO). Now, the reason I'm trying to push for having at least the possibility of having `repeat` producing more meaningful results is to allow for invariant reasoning with possible non-termination. Example:
```lean-4
def something (n : Nat) (p : Nat → Bool) : Option Nat := do
  let mut n := n
  while !p n do
    n := n + 2
  return n
```
In this example, it would be nice if you could prove that whatever the result is, it's even and fulfills `p n`.

**Comment by sgraf812** [comment]
Sigh. I spent the better part of a day on 2198b357f6c6c970a8dcdac0c27e74036f4353d4 where I try and generalize "The bind of a MonadTail preserves CCPOs" to "The bind of a MonadTail preserves any lifted relation" to characterize MonadTail without CCPOs. The trouble is that there is no `CCPO α` that can be lifted through `StateT σ m α` without losing the bottom element because `liftRel` forces the PartialOrder on `σ` to be `Eq`, which doesn't have a bottom element. As a result, there is no bottom element wrt. the lifted ordering and hence no CCPO. So the CCPO construction isn't as parametric as I expected it to.

---

> So if all we wanted is some arbitrary fixpoint, then just state it like that directly. 

Huh, thanks! Indeed, we could just define

```
def extrinsicFix {α : Sort u} [Nonempty α] (f : α → α) : α :=
  if h : ∃ x, x = f x then
    h.choose
  else
    -- Return `opaqueFix f` so that `implemented_by opaqueFix` is sound.
    -- In effect, `extrinsicFix` is opaque if no fixpoint exists.
    opaqueFix f

/--
The fixpoint equation for `extrinsicFix`: given a proof that the fixpoint exists, unfold
`extrinsicFix`.
-/
theorem extrinsicFix_eq {f : α → α}
    (x : α) (h : x = f x) :
    letI : Nonempty α := ⟨x⟩; extrinsicFix f = f (extrinsicFix f) := by
  letI : Nonempty α := ⟨x⟩
  have h : ∃ x, x = f x := ⟨x, h⟩
  simp only [extrinsicFix, dif_pos h]
  exact h.choose_spec

/--
The fixpoint equation for `extrinsicFix`: given a CCPO instance and monotonicity of `f`,
{lean}`extrinsicFix f = f (extrinsicFix f)`.
-/
theorem extrinsicFix_eq_mono [inst : CCPO α] {f : α → α}
    (hf : monotone f) :
    extrinsicFix f = f (extrinsicFix f) :=
  extrinsicFix_eq (fix f hf) (fix_eq hf)
```

I suppose we could derive `WellFounded.extrinsicFix` as well:

```
abbrev discardR {C : α → Sort _} {R : α → α → Prop}
    (f : ∀ a, (∀ a', R a' a → C a') → C a) : ((∀ a, C a) → (∀ a, C a)) :=
  fun rec a => f a (fun a _ => rec a)

theorem extrinsicFix_eq_wf {C : α → Sort _} [∀ a, Nonempty (C a)] {R : α → α → Prop}
    {f : ∀ a, (∀ a', R a' a → C a') → C a} (h : WellFounded R) {a : α} :
    extrinsicFix (discardR f) a = f a (fun a _ => extrinsicFix (discardR f) a) := by
  suffices extrinsicFix (discardR f) = fun a => f a (fun a _ => extrinsicFix (discardR f) a) by
    conv => lhs; rw [this]
  apply extrinsicFix_eq (fun a => WellFounded.fix h f a) (funext fun a => (WellFounded.fix_eq h f a))
```

(This all plays fast-and-loose with the correspondence between logic and compiler semantics, but we have ideas to solve that in a different, but similar way than WellFound.extrinsicFix.)

> For us to actually get something more meaningful, we need more information (e.g. a user-specifiable CCPO).

I'm not sure I agree. Note that a distinguished (i.e., non-choose) bottom element is not meaningful for program verification at all, and executable programs is what `do` notation is used for.

I added the following correctness proof of your `something` example to the test:

```
def terminatesSometimes (n : Nat) (p : Nat → Bool) :  Option Nat := do
  let mut n := n
  while !p n do
    n := n + 2
  return n

example (n m : Nat) (h : n ≤ m) (heven : n % 2 = 0) (hmeven : m % 2 = 0) (h : p m) :
    ⦃⌜True⌝⦄ terminatesSometimes n p ⦃⇓ r => ⌜r % 2 = 0⌝⦄ := by
  mvcgen [terminatesSometimes] invariants
  | inv1 => fun i => ULift.up (m + 1 - i)
  | inv2 => ⇓ (done, i) => ⌜i % 2 = 0 ∧ i ≤ m⌝ ∧ ⌜done = true → p i⌝
  with grind
```

**Comment by Rob23oba** [comment]
Hmm okay let me make a case for where it *would* be helpful to have a distinguished bottom element:
```lean-4
opaque InputData : Type
opaque InterestingProperty (input : InputData) : Prop

def verifier (input : InputData) : Option Unit := do
  -- ...
  repeat
    -- ...
    pure ()
  return true

theorem interestingProperty_of_verifier_eq_some (input : InputData) :
    verifier input = some () → InterestingProperty input := sorry

def interestingInput : InputData := sorry

example : InterestingProperty interestingInput := by
  apply interestingProperty_of_verifier_eq_true; native_decide
```
Let's say that we some property of some kind of input data and some procedure to verify this property that notably might not terminate (take e.g. the property of a term being type correct and a type checker). Now we might wish to prove that, if the checker terminates successfully, this property holds for the given input. You could of course argue that in that case, you should just not use `repeat` and instead `partial_fixpoint` but it might be the case that `repeat` is not only simpler to use but also simpler to verify (if we e.g. had special partial specifications for `repeat`). Also, even if `verifier` *did* always terminate, non-termination = `none` would at least allow us to prove correctness without needing to provide a termination measure.

**Comment by sgraf812** [comment]
Note that all fixpoint combinators agree on *terminating* inputs. It's the non-terminating inputs where they disagree.

I think what you are rooting for is "I tell you that `none` is the bottom element and promise not to return it from any algorithm, so if I say `verifier input = some ()`, then I know that `verifier` terminates on `input`". But there are other means to encode that the fixpoint in `verifier` unfolds finitely, for example through a termination measure. That is indeed what the proposed spec for `Loop.forIn` does.

I think it's fair to say that *if* you want the simplicity of `verifier input = some ()` to state termination, *then* you can provide your own variant of `Loop` on `Option` to implement `ForIn` and thus `repeat`-like syntax. It is not possible to state termination that simply in the general case (= arbitrary monads), though, because there might not be a distinguished bottom element that no algorithm ever returns.

**Comment by Rob23oba** [comment]
Well you don't necessarily need to know that `none` is never returned to allow the reasoning `= some -> terminates`. I disagree that you can do this easily with the existing `Loop.forIn` spec, the point was that there might not even be a termination measure, or if it exists, then it might be very hard to prove termination with it. I guess it's fair to just say "core doesn't support this itself but you can do it yourself"; however, I feel like requiring a CCPO is not a very big ask. For example, `Nonempty a` already gives you a `CCPO a` so you could just do this with some kind of low priority default instance. And it's quite easy to make sure that if there is a fixpoint, you still get one (so the default `Loop.forIn` spec doesn't need to work with monotonicity):
```lean-4
open Lean Order

instance [CCPO α] : Nonempty α := ⟨bot⟩

@[specialize]
partial def opaqueFix {α : Sort u} [CCPO α] (f : α → α) : α := f (opaqueFix f)

open Classical in
@[implemented_by opaqueFix]
def extrinsicFix {α : Sort u} [CCPO α] (f : α → α) : α :=
  if h : monotone f then
    fix f h
  else if h : ∃ x, f x = x then
    h.choose
  else
    opaqueFix f
```

**Comment by sgraf812** [comment]
Unfortunately, I needed to drop the approach based on `partial_fixpoint` because I still can't figure out how to make it uphold the implicit soundness contract with the (optimizing) compiler and thus don't know how to prevent `native_decide` unsoundness in the future. So back to well-founded `extrinsicFix` it is.

**Comment by sgraf812** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/c69a4dffd75fcff2d4812a17e6e195f2e7c9c666?reference=e3d42400cee1b49f643bd74a9ae06b4a026ae612) for c69a4dffd75fcff2d4812a17e6e195f2e7c9c666 against e3d42400cee1b49f643bd74a9ae06b4a026ae612 are in. There are significant results. @sgraf812

> [!WARNING]
> These warnings may indicate that the benchmark results are not directly comparable, for example due to changes in the runner configuration or hardware.
>
> - Bench repo commit hashes for run build differ between commits.
> - Runner for run build has different system configurations between commits.
> - Bench repo commit hashes for run other differ between commits.
> - Runner for run other has different system configurations between commits.

- 🟥 `build//instructions`: **+25.2G** (**+0.21%**)

**Large changes (1✅)**

- ✅ `compiled/treemap//instructions`: **-57.1M** (**-0.31%**)

**Medium changes (2🟥)**

- 🟥 `build/module/Lean.Meta.Tactic.Grind.AC.Eq//instructions`: **+1.4G** (**+4.09%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Lean.Meta.Tactic.Grind.EMatch//instructions`: **+1.2G** (**+2.25%**) (reduced significance based on absolute threshold)

**Small changes (58🟥)**

Too many entries to display here. View the full report on radar instead.

**Comment by sgraf812** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/37543cb25219185e3a1ad5eba5078e5af67c5ef1?reference=e3d42400cee1b49f643bd74a9ae06b4a026ae612) for 37543cb25219185e3a1ad5eba5078e5af67c5ef1 against e3d42400cee1b49f643bd74a9ae06b4a026ae612 are in. There are significant results. @sgraf812

> [!WARNING]
> These warnings may indicate that the benchmark results are not directly comparable, for example due to changes in the runner configuration or hardware.
>
> - Bench repo commit hashes for run build differ between commits.
> - Runner for run build has different system configurations between commits.
> - Bench repo commit hashes for run other differ between commits.
> - Runner for run other has different system configurations between commits.

- 🟥 `build//instructions`: **+19.0G** (**+0.16%**)

**Medium changes (2🟥)**

- 🟥 `build/module/Lean.Meta.Tactic.Grind.AC.Eq//instructions`: **+1.3G** (**+3.78%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Lean.Meta.Tactic.Grind.EMatch//instructions`: **+1.1G** (**+2.13%**) (reduced significance based on absolute threshold)

**Small changes (37🟥)**

Too many entries to display here. View the full report on radar instead.

**Comment by sgraf812** [comment]
FWIW, I abandoned the `partial_fixpoint`-based solution for now because its unclear whether its interaction with compiler optimizations is sound. The encoding I have now works but doesn't allow invariants and measures scoping over monadic state. I think this is fine in the interest of making progress. Only TODO now is to investigate what is causing the regression.
